US08017607B2
A mixture of rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (42.3 mg, 0.10 mmol) and 1-chloro-4-isocyanato-benzene (Aldrich, 45.0 mg, 0.30 mmol) in CH2Cl2 (2 mL) was stirred at rt for 1 h. The reaction mixture was then concentrated and purified by flash column to give rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid (4-chloro-phenyl)-amide (35.9 mg, 59.3%) as a white amorphous. HRMS (ES+) m/z Calcd for C29H26Cl2F2N3O+H [(M+H)+]: 576.1183, found: 576.1183.

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.10 mmol, 42.3 mg | ClC=1C(=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | 1-chloro-4-isocyanato-benzene | 0.30 mmol, 45.0 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid (4-chloro-phenyl)-amide | 35.9 mg, 59.3% | ClC1=CC=C(C=C1)NC(=O)N1C(C(C(C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F | C29H26Cl3F2N3O
